US04558140
The crude optically active (5Z,11alpha,13S,14E)-13-(2-tetrahydropyranyloxy)-11,16,16-Tri-methyl-9-oxoprosta-5,14-dien-1-oic acid methyl ester (10.55 g) in methanol (100 mL) solution was treated with pyridinium p-toluenesulfonate (1.0 g) and stirred under argon at 40° for 24 hours. After cooling it, the solution was poured into brine (500 mL) and the product was extracted three times with hexane (150 mL each time). The combined extract was dried over sodium sulfate and stripped of solvent to give 9.5 g (~100%) of optically active (5Z,11alpha,13S,14E)-13-hydroxy-11,16,16-trimethyl-9-oxoprosta-5,14-dien-1-oic acid methyl ester as a yellow oil.

reactant | (5Z,11alpha,13S,14E)-13-(2-tetrahydropyranyloxy)-11,16,16-Tri-methyl-9-oxoprosta-5,14-dien-1-oic acid methyl ester | 10.55 g | COC(CCC\C=C/C[C@H]1C(C[C@H]([C@@H]1[C@H](\C=C\C(CCCC)(C)C)OC1OCCCC1)C)=O)=O | C29H48O5
reactant | pyridinium p-toluenesulfonate | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methanol | 100 mL | CO | CH4O
solvent | brine | 500 mL | [Cl-].[Na+].O
product | (5Z,11alpha,13S,14E)-13-hydroxy-11,16,16-trimethyl-9-oxoprosta-5,14-dien-1-oic acid methyl ester | COC(CCC\C=C/C[C@H]1C(C[C@H]([C@@H]1[C@H](\C=C\C(CCCC)(C)C)O)C)=O)=O | C24H40O4
